US05583147
To a stirred suspension of 4-isopropylbenzaldehyde (21.4 g) and sodium cyanide (6.9 g) in water (25 ml) at 0° was added saturated sodium bisulfite (40 ml) dropwise over a period of 30 minutes. During the addition about 50 g of ice was also added in small portions. After the addition the mixture was warmed up to room temperature gradually. Resulting waxy 4-isopropylmandelonitrile was separated by decantation and the aqueous layer was extracted with benzene. The benzene extract was evaporated and, the residue was combined with the waxy material. The 4-isopropylmandelonitrile was dissolved in concentrated hydrochloric acid (25 ml) and the mixture was stirred at room temperature overnight. It was then stirred in a 100° oil bath for 3 hours. After cooling was added water to dissolve the solid material and the product was extracted with ethyl ether throughly. The combined extracts were washed with brine, dried (sodium sulfate) and evaporated to give 4-isopropylmandelic acid as an oil (17 g).

reactant | 4-isopropylbenzaldehyde | 21.4 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | sodium cyanide | 6.9 g | [C-]#N.[Na+]
reactant | sodium bisulfite | 40 ml | S([O-])(O)=O.[Na+]
solvent | water | 25 ml | O | H2O
product | 4-isopropylmandelonitrile | C(C)(C)C1=CC=C(C(C#N)O)C=C1 | C11H13NO
